Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
Orthostatic hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ yo F with ESRD on PD, T2DM, peripheral neuropathy, autonomic 
neuropathy and orthostatic hypotension who presents from her 
PCP's office with orthostatic hypotension. She reports recent 
decreased PO intake and diarrhea over the last 7 days. 
Additionally, she reports SOB and lower extremity fatigue with 
exertion, worse over the last 3 months. She went to her PCP's 
office this morning, where she was found to have supine BP of 
136/58, and SBP upon sitting of 70. Additionally, she reports 
that during this episode of hypotension, her feet were 
trembling, and she felt lightheaded. She was sent from the PCP's 
office to the ED for additional evaluation. 

In the ED, initial vitals were: T 99.8F, HR 110, BP 112/54, RR 
16, O2 Sat 99% RA. While in the ED she received 150 mL of NS 
IVF.

 
Past Medical History:
MEDICAL HISTORY:
--Hypertension
--Obesity
--Anemia
--Severe depression
--Anxiety
--Type 2 DM complicated by nephropathy leading to end-stage 
renal disease and initiation of peritoneal dialysis on ___. 
--Diverticulitis
--Lower GI bleed
--Gout
--Hyperlipidemia
--Insomnia
--Urinary tract infections   
.  
SURGICAL HISTORY:
--s/p hysterectomy  
--s/p gastric bypass 2 or ___ years ago  
--s/p lumpectomy  
--s/p vein stripping 
 
Social History:
___
Family History:
Her mother died at the age of ___- had h/o MI and died of sepsis. 
 Her father died at the age of ___ from stroke.  There is no 
significant family history of cancers. 

 
Physical Exam:
ON ADMISSION: 

VS -  T 98.2, HR 88, BP 117/50, RR 16, O2 Sat 100% RA
GENERAL - Comfortable appearing elderly female in NAD
HEENT - NC/AT, EOMI, sclerae anicteric, MMM 
LUNGS - CTAB
HEART - RRR, normal S1-S2, no m/r/g
ABDOMEN - NABS, soft/NT/ND, peritoneal catheter in place in the 
LLQ. Bandage overlying the catheter entry site that is c/d/i.
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (DPs). Left 
lower extremity has more bulk than right.  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout.
 
 
Pertinent Results:
Admission:
___ 01:20PM BLOOD WBC-12.4* RBC-3.28* Hgb-9.8* Hct-30.1* 
MCV-92 MCH-30.0 MCHC-32.7 RDW-13.5 Plt ___
___ 01:20PM BLOOD Neuts-85.0* Lymphs-7.3* Monos-5.8 Eos-1.4 
Baso-0.5
___ 01:20PM BLOOD ___ PTT-26.5 ___
___ 01:20PM BLOOD Glucose-192* UreaN-47* Creat-11.4*# 
Na-135 K-3.6 Cl-93* HCO3-24 AnGap-22*
___ 01:20PM BLOOD ALT-23 AST-25 AlkPhos-78 TotBili-0.1
___ 01:20PM BLOOD cTropnT-0.04* proBNP-3211*
___ 01:20PM BLOOD Albumin-2.9* Calcium-8.1* Phos-9.1*# 
Mg-2.3
___ 07:10AM BLOOD TSH-3.7
___ 01:32PM BLOOD Lactate-1.4

Discharge:
___ 06:05AM BLOOD WBC-10.2 RBC-2.80* Hgb-8.3* Hct-25.4* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-13.6 Plt ___
___ 06:05AM BLOOD Glucose-85 UreaN-46* Creat-8.5* Na-140 
K-3.6 Cl-104 HCO3-24 AnGap-16
___ 06:05AM BLOOD Calcium-7.8* Phos-4.6* Mg-2.0CXR 
___:  No acute cardiopulmonary process

___ Stim:
___ 05:40AM BLOOD Cortsol-12.2
___ 06:55AM BLOOD Cortsol-35.5*
___ 07:10AM BLOOD Cortsol-29.2*

Studies:
CXR (___)
PA and lateral radiographs of the chest show no evidence of 
consolidation or pneumonia.  There is no pleural effusion or 
pneumothorax.  The cardiomediastinal silhouette is normal.  
Multiple air filled loops of bowel are noted in the left upper 
quadrant.
 
Brief Hospital Course:
___ yo F with ESRD on PD, T2DM, peripheral neuropathy, autonomic 
neuropathy and orthostatic hypotension who presents from her 
PCP's office with orthostatic hypotension.

# Orthostatic hypotension: Improved in the setting of IVF 
rehydration and initiation of midodrine, fludrocortisone, and 
salt tabs. Likely secondary to a combination of autonomic 
dysfunction secondary to diabetes and dehydration secondary to 
decreased PO intake and recent diarrhea. PCP has raised concerns 
for anorexia, which could also contribute to her orthostatic 
hypotension. Another possible cause of hypotension is infection, 
although she has been afebrile, and has no localizing signs of 
infection. ___ test was within normal limits. 

# Troponinemia: No evidence of ischemia on EKG, and the patient 
was chest pain free. It is very difficult to interpret this lab 
value given the patient's renal function. However, there is 
little in her clinical picture to suggest that she has cardiac 
ischemia. 

# End-stage renal disease: Maintained on peritoneal dialysis, 
per renal recommendations. 

# Type 2 diabetes: Tightly controlled on this admission. She was 
maintained on her home insulin regimen. 

# Anemia: Crit was elevated on presentation, likely secondary to 
hemoconcentration. Work-up in the past has revealed anemia 
secondary end-stage renal disease and B12 deficiency. Per renal 
recommendations, she was given a split dose of epogen (4000 
units SC QMOWEFR). She was restarted on her home regimen of 
epogen upon discharge.

# Hyperlipidemia: Stable. She was maintained on her home dose of 
rosuvastatin.

# Anxiety: No active issues. She was maintained on her home dose 
of lorazepam.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientPharmacywebOMR.
1. Lorazepam 2 mg PO HS anxiety 
Please hold for sedation 
2. Lorazepam 1 mg PO BID:PRN anxiety 
3. Polyethylene Glycol 17 g PO QHS 
4. Cyclobenzaprine 5 mg PO HS:PRN back spasm 
___ Tablet(s) by mouth QHS as needed for back pain or spasm  
5. Rosuvastatin Calcium 40 mg PO DAILY 
6. Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Hydrocodone-Acetaminophen (5mg-500mg 1 TAB PO Q6H:PRN back 
pain 
8. Sertraline 100 mg PO DAILY 
9. Calcium Acetate ___ mg PO TID W/MEALS 
10. Mupirocin Cream 2% 1 Appl TP DAILY 
Apply to PD catheter exit site once daily 
11. ZYRtec *NF* 5 mg Oral daily 
12. melatonin *NF* 3 mg Oral QHS 
13. Epoetin Alfa 10,000 units SC WEEKLY Start: HS 

 
Discharge Medications:
1. Calcium Acetate ___ mg PO TID W/MEALS 
2. Cyclobenzaprine 5 mg PO HS:PRN back spasm 
___ Tablet(s) by mouth QHS as needed for back pain or spasm  
3. Epoetin Alfa 10,000 units SC WEEKLY 
4. Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Lorazepam 2 mg PO HS anxiety 
Please hold for sedation 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. Mupirocin Cream 2% 1 Appl TP DAILY 
Apply to PD catheter exit site once daily 
8. Polyethylene Glycol 17 g PO QHS 
9. Rosuvastatin Calcium 40 mg PO DAILY 
10. Sertraline 100 mg PO DAILY 
11. melatonin *NF* 3 mg Oral QHS 
12. ZYRtec *NF* 5 mg Oral daily 
13. Fluconazole 200 mg PO Q24H 
14. Midodrine 10 mg PO TID 
RX *midodrine 10 mg 1 Tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*2
15. Nephrocaps 1 CAP PO DAILY 
RX *Nephrocaps 1 mg 1 Capsule(s) by mouth daily Disp #*1 Capsule 
Refills:*2
16. Fludrocortisone Acetate 0.1 mg PO DAILY 
RX *fludrocortisone 0.1 mg 1 Tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
17. Sodium Chloride 1 gm PO BID orthostatic hypotension 
RX *sodium chloride 1 gram 1 Tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:   Orthostatic hypotension

Secondary: End Stage Renal Disease
           Type 2 Diabetes Mellitus
           Anemia
           Hyperlipidemia
           Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital after being found to have 
orthostatic hypotension (a drop in your blood pressure when 
standing) at your PCP's office. The most likely cause of this 
change in your blood pressure is a combination of dehydration 
and autonomic nerve dysfunction secondary to your diabetes. 
While ___ were in the hospital, ___ were given IV fluid 
rehydration and ___ were started on a few medications for 
additional long-term blood pressure support. With these 
interventions, your blood pressure normalized, and ___ improved. 


Additionally, while ___ were hospitalized ___ underwent a test 
to examine the function of your adrenal glands. This test, 
called a Cosyntropin-Stimulation Test, showed that ___ have 
normal adrenal gland function.

It was a pleasure taking care of ___. 

Please note that the following change has been made to your home 
medications:
1. Please start taking midodrine 10 mg by mouth three times per 
day.
2. Please start taking Salt Tabs (NaCl) 1 g by mouth three times 
per day.
3. Please start taking Fludrocortisone 0.1 mg by mouth daily
 
Followup Instructions:
___